US05521220
A. α-Cyclohexylaminobenzeneacetonitrile
A solution of 0.98 g (9.4 mmol) of sodium bisulfite in 4 ml of water was treated with 0.96 ml (9.4 mmol) benzaldehyde in 5 ml of methanol. The resulting mixture was cooled to 5°-10° C. and treated with cyclohexylamine, whereupon a thick precipitate was formed. With the reaction mixture still at approximately 5° C., solid potassium cyanide (0.61 g, 9.4 mmol) was added portionwise over 2 minutes. The precipitate became thick enough to halt stirring and 5 ml of 1:1 methanol water was added to facilitate stirring. The reaction mixture was allowed to warm to room temperature over a 16 hour period. The mixture was then filtered and the product was washed with methanol-water and dried in air. There were obtained 1.6 grams (79.6% yield) of the above titled product. 1H NMR (300 MHz, CDCl3) δ7.5-7.3 (m, 5H), 4.82 (s, 1H), 2.9-2.8 (m, 1H), 2.0 (d, 1H, J=12 Hz), 1.75-1.62 (m, 4H), 1.4-1.0 (m, 6H). 13C NMR (75 MHz, CDCl3) δ135.56, 128.99, 128.91, 127.29, 119.35, 54.87, 51.68, 33.87, 31.94, 25.95, 24.66, 24.27. IR CHCl3 λ 2220 cm-1. Mass Spectrum m/e 214 p+.

reactant | sodium bisulfite | 9.4 mmol, 0.98 g | S([O-])(O)=O.[Na+]
reactant | benzaldehyde | 9.4 mmol, 0.96 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | potassium cyanide | 9.4 mmol, 0.61 g | [C-]#N.[K+]
solvent | water | 4 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol water | 5 ml | O.CO
product | α-Cyclohexylaminobenzeneacetonitrile | 1.6 grams, 79.6% yield | C1(CCCCC1)NC(C#N)C1=CC=CC=C1 | C14H18N2
